US06333336B1
7-Benzyl-2,5-dihydro-2-(4-methoxyphenyl)pyrazolo[4,3-c]pryidin-3-one hydrochloride
Following a similar procedure to that described in Example 4, except using ethyl 3-benzyl-4-chloro-5-pyridinecarboxylate and 4-methoxyphenylhydrazine hydrochloride instead of ethyl 4-chloro-3-propyl-5-pyridinecarboxylate and 4-chlorophenylhydrazine hydrochloride, the title compound was prepared, after trituration with CH2Cl2-Me-OH—HCl—Et2O, in 30% yield as a cream solid, mp 179-185° C.; 1H NMR (360 MHz, DMSO-d6) δ3.78 (3H, s), 4.00 (2H, m), 7.01 (2H, d, J 9.2 Hz), 7.21 (1H, t, J 7.3 Hz), 7.31 (2H, t, J 7.3 Hz), 7.41 (1H, s), 7.42 (2H, d, J 7.0 Hz), 8.05 (2H, d, J 9.2 Hz), 8.56 (1H, s), 12.52 (1H, br s); MS (ES+) m/z 332 [MH]+. Anal. found: C, 65.36; H, 4.86; N, 11.25. C20H17N3O2.HCl requires: C, 65.31; H, 4.93; N, 11.42%.

reactant | ethyl 3-benzyl-4-chloro-5-pyridinecarboxylate | C(C1=CC=CC=C1)C=1C=NC=C(C1Cl)C(=O)OCC | C15H14ClNO2
reactant | 4-methoxyphenylhydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
reactant | 4-chlorophenylhydrazine hydrochloride | Cl.ClC1=CC=C(C=C1)NN
reactant | CH2Cl2 Me-OH—HCl Et2O | C(Cl)Cl.CO.Cl.CCOCC
product | 7-Benzyl-2,5-dihydro-2-(4-methoxyphenyl)pyrazolo[4,3-c]pryidin-3-one hydrochloride | 30% yield | Cl.C(C1=CC=CC=C1)C=1C=2C(=CNC1)C(N(N2)C2=CC=C(C=C2)OC)=O | InChI=1S/C20H17N3O2.ClH/c1-25-17-9-7-16(8-10-17)23-20(24)18-13-21-12-15(19(18)22-23)11-14-5-3-2-4-6-14;/h2-10,12-13,21H,11H2,1H3;1H
